US06982348B2
To a suspension (100 ml) of 3-(1,1-difluoroethyl)benzonitrile (5.10 g, 30.5 mmol) in water was added sodium hydroxide (3.05 g, 76.25 mmol), and the mixture was stirred at 100° C. for 5 hrs. After completion of the reaction, the reaction solution was acidified with 6N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 3-(1,1-difluoroethyl)benzoic acid (5.10 g, 90%) as colorless crystals.

reactant | 3-(1,1-difluoroethyl)benzonitrile | 30.5 mmol, 100 ml, 5.10 g | FC(C)(F)C=1C=C(C#N)C=CC1 | C9H7F2N
reactant | sodium hydroxide | 76.25 mmol, 3.05 g | [OH-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | water | O | H2O
product | 3-(1,1-difluoroethyl)benzoic acid | 5.10 g, 90% | FC(C)(F)C=1C=C(C(=O)O)C=CC1 | C9H8F2O2
